US09376442B2
4-[2-(Cyclopropylmethoxy)-4-fluoro-5-methylphenyl]-N-{cis-4-[(hydroxyacetyl)amino]cyclohexyl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-(cis-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-4-fluoro-5-methylphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f42) and commercially available 2-chloro-2-oxoethyl acetate the title compound is obtained as colorless solid.

reactant | N-(cis-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-4-fluoro-5-methylphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C(=C2)C)F)OCC2CC2)C
reactant | 2-chloro-2-oxoethyl acetate | C(C)(=O)OCC(=O)Cl | C4H5ClO3
product | 4-[2-(Cyclopropylmethoxy)-4-fluoro-5-methylphenyl]-N-{cis-4-[(hydroxyacetyl)amino]cyclohexyl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C(=C1)F)C)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@@H](CC2)NC(CO)=O | C27H32FN5O4
